US09212163B2
Preparation of tert-Butyl(1-((2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)-carbamate
To a stirred solution of 1-((tert-butoxycarbonyl)amino)cyclopropanecarboxylic acid (10.0 g, 49.7 mmol) in CH2Cl2 (80 mL) was added EDC.HCl (13.8 g, 71.8 mmol) followed by 2,2,2-trifluoroethylamine (8.21 g, 82.8 mmol) and 4-(dimethylamino)pyridine (7.31 g, 59.8 mmol). The reaction mixture was stirred at ambient temperature for 18 h, taken up in 300 mL of EtOAC, then washed with aq. 10% HCl (3×), aq. 10% K2CO3 (2×) and aq. sat. NaCl (1×). The organic phase was dried (MgSO4) and concentrated in vacuo to afford the title compound as a white solid (11.8 g, 84%): mp 166-167° C.; 1H NMR (400 MHz, DMSO-d6) rotamers δ 8.43 (s, 0.3H), 8.20 (s, 0.7H), 7.41 (s, 0.7H), 7.11 (s, 0.3H), 3.84 (dt, J=9.9, 4.9 Hz, 2H), 1.38 (d, J=11.4 Hz, 9H), 1.24 (q, J=4.3 Hz, 2H), 0.92 (q, J=4.3 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −70.57; 13C NMR (101 MHz, DMSO-d6) rotamers δ 172.82, 155.37, 124.64 (q, J=281 Hz), 78.29, 40.18 (q, J=34 Hz), 35.43, 34.70, 28.05, 27.84, 17.28, 16.62.

reactant | 1-((tert-butoxycarbonyl)amino)cyclopropanecarboxylic acid | 49.7 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | EDC.HCl | 71.8 mmol, 13.8 g | CCN=C=NCCCN(C)C.Cl
reactant | 2,2,2-trifluoroethylamine | 82.8 mmol, 8.21 g | FC(CN)(F)F | C2H4F3N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 59.8 mmol, 7.31 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl(1-((2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)-carbamate | 11.8 g, 84% | C(C)(C)(C)OC(NC1(CC1)C(NCC(F)(F)F)=O)=O | C11H17F3N2O3
